datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N:10]2.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N+:10]2[CH:20]([CH:21]=[CH:22][N:23]1C2=C(C=CC=C2)CC1C(=O)[O-])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C)[O:12]1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH2:10][CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
"C1C[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)CCO1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14]3CCOCC3)[CH:62]=[CH:61]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"C=C(C)C[C:11](C)=[CH2:10].COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>C=C(C)C[C+:11](C)[CH2:10][CH:20](C1=CC=C(OC)C=C1)[C:21](=[C:22]=[N-:23])[C:32]#[N:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C)[O:12]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH2:10][CH:20]1CC[O:33][C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N:12]2CC[S:62][C:11]2=[N:10]1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[N:10]2CC[N+:12]3=[C:11]2[S:62]CC3)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C>>C[C:20](C)([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C 10,11=10,20"
"C1=CC=C(C[NH2:10])C=C1.C1C[C:20](=[O:21])CCS1>>C1=CC=C(C[NH2+:10][C:20]2([O-:21])CCSCC2)C=C1 10=20;20,21=21"
CO[C:65]1=[CH:64][CH:63]=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[CH:67]=[CH:66]1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CO[C:65]1=[CH:64][CH:63]=[C:62]([N:61]2[C:10]([CH:20]([C:31]3=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]3)[CH:41]=[CH:42][C:53]3=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]3)=[N+:71](C)[CH:73]=[CH:72]2)[CH:67]=[CH:66]1 10=20
"C[Si:63](C)(C)[O:12][C:11](C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)=[CH2:10].Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>C[Si:63](C)(C)[O+:12]=[C:11](C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)[CH2:10][C:20]1([O-:21])[C:32](=[O:33])[C:31](Cl)=[C:30](Cl)[C:42](Cl)=[C:41]1Cl 10,11=10,20;12=11,12;20,21=21"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[C:10](C)=[C:11](C)C>>C[C:10](C)([C+:11](C)C)[CH:20]([C:31]1=[CH:32][C:33]2=[C:34](OCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](OCC2)[CH:45]=[CH:46]1 10,11=10,20"
C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[C:63]1=[CH:62][CH:61]=[N:10][C:71]2=[C:72]1C=CC=C2>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][CH:62]=[C:63](C)[C:72]3=[C:71]2C=CC=C3)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C@H]1[C@@H](C)[O:62][C@:11](C)([H:10])[O:12]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1.C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([O:61][P:10]([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C1=CC=C([O:61][P+:10]([F:20])([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10=20;20,21=21"
